US08431607B2
To a 25 mL round bottom flask is placed (tetrahydro-2H-pyran-4-yl)methanol (350 mg, 3 mmol), followed by dichloromethane (DCM, 15 mL). The solution is cooled to 0° C. and is then treated with methanesulfonyl chloride (0.24 mL, 3.15 mmol) and triethylamine (0.88 mL, 6.3 mmol). The reaction is complete after 30 min. and is then quenched with water and diluted with DCM (10 mL). The layers are then partitioned, and the aqueous layer is extracted with DCM (3×10 mL). The combined organics are dried over Na2SO4, filtered and concentrated. The crude mesylate is then dissolved in DMF (10 mL), to which sodium azide (410 mg, 6.3 mmol) is added and then heated to 75° C. for 4 h. The reaction is then cooled to room temperature, quenched with water (10 mL) and extracted with diethyl ether (3×20 mL). The combined organics are then washed with water (3×10 mL), dried over MgSO4, filtered, and concentrated to give 4-(azidomethyl)-tetrahydro-2H-pyran as a colorless liquid. 1H NMR (CDCl3, 400 MHz) δ 4.01-3.97 (m, 2H), 3.39 (td, J=11.9, 2.1 Hz, 2H), 3.18 (d, J=6.8 Hz, 2H), 1.86-1.75 (m, 1H), 1.67-1.64 (m, 2H), 1.40-1.29 (m, 2H).

reactant | (tetrahydro-2H-pyran-4-yl)methanol | 3 mmol, 350 mg | O1CCC(CC1)CO | C6H12O2
reactant | methanesulfonyl chloride | 3.15 mmol, 0.24 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 6.3 mmol, 0.88 mL | C(C)N(CC)CC | C6H15N
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | sodium azide | 6.3 mmol, 410 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-(azidomethyl)-tetrahydro-2H-pyran | N(=[N+]=[N-])CC1CCOCC1 | C6H11N3O
